US06514964B1
7-(2-pyridylamino)heptanoic acid
To a stirring solution of 7-aminoheptanoic acid in pyridine (0.5 M) was added 2-fluoropyridine (2 eq) and 2N NaOH (1 eq), and the reaction was refluxed overnight. The mixture was adjusted to neutral pH with 6N HCl and concentrated in vacuo. The residue was suspended in 10:1:1 EtOH/NH4OH/H2O, filtered through a plug of silica, and concentrated in vacuo to afford a colorless solid.

reactant | 7-aminoheptanoic acid | NCCCCCCC(=O)O | C7H15NO2
reactant | 2-fluoropyridine | 2 eq | FC1=NC=CC=C1 | C5H4FN
reactant | NaOH | 2N, 1 eq | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | pyridine | 0.5 M | N1=CC=CC=C1 | C5H5N
product | 7-(2-pyridylamino)heptanoic acid | N1=C(C=CC=C1)NCCCCCCC(=O)O | C12H18N2O2
